### PR TITLE
[Merged by Bors] - feat: additional basic lemmas about CW complexes

### PR DESCRIPTION
**Pull request by scholzhannah**
This PR adds additional basic lemmas about the classical definition of CW complexes.

---

- [x] depends on: #19760

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by peabrainiac — COMMENTED** [review]
I've gone ahead and left a few comments, mostly suggesting different tactics, stylistic changes and ways the code can be golfed; feel free to ignore the ones you disagree with, I know opinions can differ.

I'm also wondering whether it might make sense to swap the left and right hand sides of lemmas like `iUnion_openCell_eq_skeletonLT`, `iUnion_openCell_eq_skeleton` and `iUnion_openCell` (which should maybe be `iUnion_openCell_eq_complex`) - using them to expand out `skeleton` or `skeletonLT` will probably a lot more common than having the current left hand side appear somewhere and using the lemma to simplify it. You can already see within this PR that they are mostly used in that direction.

Other than that though, this looks good to me - the lemmas are well-documented, well-named, and mathematically meaningful. It would probably be good to also have a more experienced reviewer take a look, but personally I would be happy to see this in mathlib.

**Comment by scholzhannah** [comment]
Thank you for your review! I learned a lot about how to make my code nicer.

> I'm also wondering whether it might make sense to swap the left and right hand sides of lemmas like `iUnion_openCell_eq_skeletonLT`, `iUnion_openCell_eq_skeleton` and `iUnion_openCell` (which should maybe be `iUnion_openCell_eq_complex`) - using them to expand out `skeleton` or `skeletonLT` will probably a lot more common than having the current left hand side appear somewhere and using the lemma to simplify it. You can already see within this PR that they are mostly used in that direction.

Yes, you are absolutely right. I have changed that.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 1]
```diff
@@ -371,6 +375,291 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+  · intro ⟨i, hin, hiC⟩
+    cases' i with i
+    · refine ⟨0, ?_, skeletonLT_mono (by norm_num) hiC⟩
+      simp
+    · refine ⟨i, ?_, hiC⟩
+      cases' n with n n
+      · simp
+      · nth_rw 2 [← Nat.cast_one] at hin
+        rw [← Nat.cast_add, ENat.coe_le_coe, Nat.add_le_add_iff_right] at hin
+        exact ENat.coe_le_coe.mpr hin
```
Comment (peabrainiac) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:419]: That's interesting - I would've though that changing the inequality in `iUnion_skeleton_eq_skeleton` from `m < n + 1` to `m ≤ n` would make the proofs cleaner everywhere, but apparently that isn't so, because you still get `n + 1` creeping in from e.g. the definition of `skeleton`. At least this particular proof can be golfed though.
```suggestion
      rw [Nat.cast_add_one] at hin
      exact Order.le_of_lt_add_one <| (ENat.add_one_le_iff <| by simp).1 hin
```

**Comment by peabrainiac** [comment]
That one additional comment aside, this now looks good to me - thanks for taking the time to put together this PR. @YaelDillies, would you mind also taking a quick look?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 2]
```diff
@@ -371,6 +375,291 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
   simp_rw [← skeleton_top (C := C) (D := D)]
   exact base_subset_skeleton ⊤
 
+lemma RelCWComplex.isClosed [T2Space X] [RelCWComplex C D] : IsClosed C := by
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:378]: Sorry, not at a computer right now (nor any time soon) but is `D` out-param in `RelCWComplex`? If not,
```suggestion
variable (D) in
lemma RelCWComplex.isClosed [T2Space X] [RelCWComplex C D] : IsClosed C := by
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 3]
```diff
@@ -371,6 +375,291 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+
+lemma RelCWComplex.complex_eq_iUnion_openCell [RelCWComplex C D] :
+    C = D ∪ ⋃ (n : ℕ) (j : cell C n), openCell n j := by
+  simp only [← skeletonLT_top, skeletonLT_eq_iUnion_openCell, ENat.coe_lt_top, iUnion_true]
+
+lemma CWComplex.complex_eq_iUnion_openCell [CWComplex C] :
+    C = ⋃ (n : ℕ) (j : cell C n), openCell n j := by
+  simpa using RelCWComplex.complex_eq_iUnion_openCell (C := C) (D := ∅)
+
+/-- The contraposition of `disjoint_openCell_of_ne`. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:478]:
```suggestion
/-- The contrapositive of `disjoint_openCell_of_ne`. -/
```
I believe?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 4]
```diff
@@ -371,6 +375,291 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+  simp_all only [Sigma.mk.inj_iff]
+  exact (lt_self_iff_false m).mp (ENat.coe_lt_coe.1 (hln.trans_le hnm))
+
+/-- A skeleton and an open cell of a higher dimension are disjoint. -/
+lemma RelCWComplex.skeleton_inter_openCell_eq_empty [RelCWComplex C D] {n : ℕ∞} {m : ℕ}
+    {j : cell C m} (nlem : n < m) : skeleton C n ∩ openCell m j = ∅ :=
+  skeletonLT_inter_openCell_eq_empty (Order.add_one_le_of_lt nlem)
+
+lemma RelCWComplex.base_inter_iUnion_openCell_eq_empty [RelCWComplex C D] :
+    D ∩ ⋃ (n : ℕ) (j : cell C n), openCell n j = ∅ := by
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:534]:
```suggestion
lemma RelCWComplex.,disjoint_base_iUnion_openCell [RelCWComplex C D] :
    Disjoint D (⋃ (n : ℕ) (j : cell C n), openCell n j) := by
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 5]
```diff
@@ -371,6 +375,291 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+  simp_rw [inter_iUnion, iUnion_eq_empty]
+  intro n i
+  rw [inter_comm, (disjointBase n i).inter_eq]
+
+lemma RelCWComplex.interior_base_inter_closedCell_eq_empty [T2Space X] [RelCWComplex C D] {n : ℕ}
+    {j : cell C n} : interior D ∩ closedCell n j = ∅ := by
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:540]: same and again below

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 6]
```diff
@@ -371,6 +375,291 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+  · rw [closedCell_zero_eq_singleton]
+    exact isClosed_inter_singleton
+  specialize h n.succ n.zero_lt_succ j
+  rcases h with h1 | h2
+  · rw [← cellFrontier_union_openCell_eq_closedCell, inter_union_distrib_left]
+    exact (isClosed_inter_cellFrontier_succ_of_le_isClosed_inter_closedCell hn j hDA).union h1
+  · exact h2
+
+/-- If for every cell either `A ∩ openCell n j` or `A ∩ closedCell n j` is closed then
+  `A` is closed. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:616]:
```suggestion
`A` is closed. -/
```
Don't indent docstrings. Same everywhere else

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 2 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:378]: Yes, D is out-param

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 7]
```diff
@@ -341,6 +341,10 @@ lemma RelCWComplex.cellFrontier_subset_skeleton [RelCWComplex C D] (n : ℕ) (j
     cellFrontier (n + 1) j ⊆ skeleton C n :=
   cellFrontier_subset_skeletonLT _ _
 
+lemma RelCWComplex.cellFrontier_subset_complex [RelCWComplex C D] (n : ℕ) (j : cell C n) :
+    cellFrontier n j ⊆ C :=
```
[the remark this answers is not in the document]
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:345]: I'm not sure actually. But it is consistent with `map`, `openCell`, `closedCell` and in general basically all properties in the definition. So maybe there was a reason for this? @fpvandoorn, do you know if this was intentional?

[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:345]: This is me just being conservative in making arguments implicit. Yael is right that in the abstract case `n` can always be inferred from the type of `j`. But in concrete CW-complexes, you might have

```lean
def myCell (C) : Nat -> Type 
| 0 => Nat
| 1 => Nat
| 2 => Empty
```
and if you are expected to provide `j : myCell C ?n` and you give `j : Nat`, there is no way - even in principle - to figure out what `?n` is supposed to be.

I'm not wedded to having `n` explicit, but I think it will sometimes be useful.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 8]
```diff
@@ -371,6 +375,290 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+  rw [closed C C (by rfl)]
+  constructor
+  · intros
+    rw [inter_eq_right.2 (closedCell_subset_complex _ _)]
+    exact isClosed_closedCell
+  · rw [inter_eq_right.2 base_subset_complex]
+    exact isClosedBase C
+
+lemma RelCWComplex.iUnion_skeletonLT_eq_skeletonLT [RelCWComplex C D] (n : ℕ∞) :
+    ⋃ (m : ℕ) (_ : m ≤ n), skeletonLT C m = skeletonLT C n := by
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:388]: This is a general property of monotone functions. Can you replace `skeletonLT` by a general monotone function in this lemma, then move it earlier? (the lemma might already exist, but I didn't find it with a quick search). Also generalise away from `Nat`. See `biSup_le_eq_iSup` for inspiration

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 9]
```diff
@@ -371,6 +375,290 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+  simpa [skeletonLT_eq_iUnion_openCell] using hx
+
+lemma CWComplex.exists_mem_openCell_of_mem_skeletonLT [CWComplex C] {n : ℕ∞} {x : X}
+    (hx : x ∈ skeletonLT C n) :
+    ∃ (m : ℕ) (_ : m < n) (j : cell C m), x ∈ openCell m j := by
+  simpa [← skeletonLT_eq_iUnion_openCell] using hx
+
+lemma RelCWComplex.exists_mem_openCell_of_mem_skeleton [RelCWComplex C D] {n : ℕ∞} {x : X}
+    (hx : x ∈ skeleton C n) :
+    x ∈ D ∨ ∃ (m : ℕ) (_ : m ≤ n) (j : cell C m), x ∈ openCell m j := by
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:496]: When is this not an iff?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 8 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: Thank you for the suggestion! I will create a separate PR since this does not have anything to do with CW complexes anymore.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 10]
```diff
@@ -481,31 +456,27 @@ lemma RelCWComplex.eq_cell_of_not_disjoint [RelCWComplex C D] {n : ℕ} {j : cel
...
+  rw [skeleton, mem_skeletonLT_iff]
+  suffices ∀ (m : ℕ), m < n + 1 ↔ m ≤ n by simp_rw [this]
+  intro m
+  cases n
+  · simp
+  · rw [← Nat.cast_one, ← Nat.cast_add, Nat.cast_lt, Nat.cast_le, Order.lt_add_one_iff]
+
+lemma CWComplex.exists_mem_openCell_of_mem_skeleton [CWComplex C] {n : ℕ∞} {x : X} :
+    x ∈ skeleton C n ↔
+    ∃ (m : ℕ) (_ : m ≤ n) (j : cell C m), x ∈ openCell m j := by
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:478]:
```suggestion
      ∃ (m : ℕ) (_ : m ≤ n) (j : cell C m), x ∈ openCell m j := by
```
or maybe it even fits on a line?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:351]: That's reasonable justification, yes. Worth recording it as a comment somewhere

[the remark this answers is not in the document]
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:353]: I'll add it to the implementation notes

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 11]
```diff
@@ -371,19 +383,271 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+    exact isClosedBase C
+
+lemma RelCWComplex.skeletonLT_succ_eq_skeletonLT_union_iUnion_closedCell [RelCWComplex C D]
+    (n : ℕ) : skeletonLT C (n + 1) = skeletonLT C n ∪ ⋃ (j : cell C n), closedCell n j := by
+  rw [skeletonLT, skeletonLT, union_assoc]
+  congr
+  norm_cast
+  exact biUnion_lt_succ _ _
+
+lemma RelCWComplex.skeleton_succ_eq_skeleton_union_iUnion [RelCWComplex C D] (n : ℕ) :
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:402]:
```suggestion
lemma RelCWComplex.skeleton_succ_eq_skeleton_union_iUnionç_closedCell [RelCWComplex C D] (n : ℕ) :
```
for consistency with your lemma above

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 12]
```diff
@@ -371,19 +383,271 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+lemma CWComplex.skeletonLT_eq_iUnion_openCell [CWComplex C] (n : ℕ∞) :
+    ⋃ (m : ℕ) (_ : m < n) (j : cell C m), openCell m j = skeletonLT C n := by
+  rw [RelCWComplex.skeletonLT_eq_iUnion_openCell, empty_union]
+
+lemma RelCWComplex.skeleton_eq_iUnion_openCell [RelCWComplex C D] (n : ℕ∞) :
+    skeleton C n = D ∪ ⋃ (m : ℕ) (_ : m < n + 1) (j : cell C m), openCell m j :=
+  skeletonLT_eq_iUnion_openCell _
+
+lemma CWComplex.skeleton_eq_iUnion_openCell [CWComplex C] (n : ℕ∞) :
+    ⋃ (m : ℕ) (_ : m < n + 1) (j : cell C m), openCell m j = skeleton C n :=
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:441]: Name is wrong

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 13]
```diff
@@ -371,19 +383,271 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+  CWComplex.skeletonLT_eq_iUnion_openCell _
+
+lemma RelCWComplex.complex_eq_iUnion_openCell [RelCWComplex C D] :
+    C = D ∪ ⋃ (n : ℕ) (j : cell C n), openCell n j := by
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:445]:
```suggestion
lemma RelCWComplex.complex_eq_union_iUnion_openCell [RelCWComplex C D] :
    C = D ∪ ⋃ (n : ℕ) (j : cell C n), openCell n j := by
```
for consistency with your lemmas above

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 14]
```diff
@@ -371,19 +383,271 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+    C = ⋃ (n : ℕ) (j : cell C n), openCell n j := by
+  simpa using RelCWComplex.complex_eq_iUnion_openCell (C := C) (D := ∅)
+
+/-- The contrapositive of `disjoint_openCell_of_ne`. -/
+lemma RelCWComplex.eq_cell_of_not_disjoint [RelCWComplex C D] {n : ℕ} {j : cell C n} {m : ℕ}
+    {i : cell C m} (h : ¬ Disjoint (openCell n j) (openCell m i)) :
+    (⟨n, j⟩ : (Σ n, cell C n)) = ⟨m, i⟩ := by
+  by_contra h'
+  push_neg at h'
+  apply h
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:458]:
```suggestion
  contrapose! h
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 15]
```diff
@@ -371,19 +383,271 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+    ⋃ (m : ℕ) (_ : m < n + 1) (j : cell C m), openCell m j = skeleton C n :=
+  CWComplex.skeletonLT_eq_iUnion_openCell _
+
+lemma RelCWComplex.complex_eq_iUnion_openCell [RelCWComplex C D] :
+    C = D ∪ ⋃ (n : ℕ) (j : cell C n), openCell n j := by
+  simp only [← skeletonLT_top, skeletonLT_eq_iUnion_openCell, ENat.coe_lt_top, iUnion_true]
+
+lemma CWComplex.complex_eq_iUnion_openCell [CWComplex C] :
+    C = ⋃ (n : ℕ) (j : cell C n), openCell n j := by
+  simpa using RelCWComplex.complex_eq_iUnion_openCell (C := C) (D := ∅)
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:450]: These lemmas are inconsistent as to whether the union is on the LHS or RHS. Can you make sure they all agree, one way or the other?

Hint: The LHS of a lemma is supposed to be more complicated than its RHS, and I would think the side with the unions is the more complicated one

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 16]
```diff
@@ -371,19 +383,271 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+    exact Disjoint.symm (disjointBase m j)
+  intro l hln i
+  apply disjoint_openCell_of_ne
+  intro
+  simp_all only [Sigma.mk.inj_iff]
+  exact (lt_self_iff_false m).mp (ENat.coe_lt_coe.1 (hln.trans_le hnm))
+
+/-- A skeleton and an open cell of a higher dimension are disjoint. -/
+lemma RelCWComplex.skeleton_inter_openCell_eq_empty [RelCWComplex C D] {n : ℕ∞} {m : ℕ}
+    {j : cell C m} (nlem : n < m) : skeleton C n ∩ openCell m j = ∅ :=
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:499]: You haven't switched to using `Disjoint` here

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 15 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:450]: Some of these were changed during the review process of this PR making the RHS the complicated one. The reasoning was that these lemmas are mostly used to expand rather than to simplify. Should I change them back then?

Comment (YaelDillies) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:450]: Hmm, can you link to the relevant conversations?

Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: Here: https://github.com/leanprover-community/mathlib4/pull/20287#pullrequestreview-2636056976

Comment (YaelDillies) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: I understand Ben's point of view but I think consistency is more valuable than ease of rewriting here

**Review by YaelDillies — COMMENTED** [review]
Can you maybe put most lemmas in
```
namespace RelCWComplex
variable [RelCWComplex C D]

...

end RelCWComplex

namespace CWComplex
variable [CWComplex C]

...

end CWComplex
```
That would clean up the statements quite a bit.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 17]
```diff
@@ -371,19 +382,266 @@ lemma RelCWComplex.base_subset_complex [RelCWComplex C D] : D ⊆ C := by
...
+  rw [closed C C (by rfl)]
+  constructor
+  · intros
+    rw [inter_eq_right.2 (closedCell_subset_complex _ _)]
+    exact isClosed_closedCell
+  · rw [inter_eq_right.2 base_subset_complex]
+    exact isClosedBase C
+
+lemma RelCWComplex.skeletonLT_union_iUnion_closedCell_eq_skeletonLT_succ [RelCWComplex C D]
+    (n : ℕ) : skeletonLT C n ∪ ⋃ (j : cell C n), closedCell n j = skeletonLT C (n + 1)  := by
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:395]: Ah then per Floris' argument [here](https://github.com/leanprover-community/mathlib4/pull/20287#discussion_r1979434212) `C` should be explicit in `closedCell`

**Comment by scholzhannah** [comment]
> Can you maybe put most lemmas in
> 
> ```
> namespace RelCWComplex
> variable [RelCWComplex C D]
> 
> ...
> 
> end RelCWComplex
> 
> namespace CWComplex
> variable [CWComplex C]
> 
> ...
> 
> end CWComplex
> ```
> 
> That would clean up the statements quite a bit.

Hm, I am not entirely convinced that this makes things nicer. I personally like that right now two corresponding lemmas are next to each other. 
Because that also means that if there is no corresponding lemma for `CWComplex`, then you know that there is an `export` for it at the bottom and you can simply use the `RelCWComplex` version. With your solution you would have to crosscheck the two different sections constantly when working with `CWComplex`.
I also think it keeps the file more organized when lemmas would possibly be added in the future. With your solution the order of the statements might not correspond anymore at some point.
But if you feel strongly that your suggestion is better, I will change it.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:395]: Perhaps. I would vote to keep it as-is, and when we use the library more and realize explicitness/implicitness of `n` and `C` is badly chosen, we change it later.

[the remark this answers is not in the document]
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:395]: Hm, maybe. But if I see this correctly then this is mainly relevant for unions, quantifiers and such. Providing the type of `j` makes things longer but not really uglier. Whereas the `(... := ...)` notation that would be needed in Floris' example is considered ugly and therefore not desirable, right? 
I don't know, maybe I am just looking for reasons not to have to add more explicit arguments.

**Comment by YaelDillies** [comment]
I do think that two synchronised sections is easier to maintain than two interleaved sections (if only because the two synchronised sections might eventually turn into two synchronised files, which also unlocks file diff tools like git), but I won't insist

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:395]: We can leave that for later

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 18]
```diff
@@ -40,6 +40,8 @@ together.
   A lot of the lemmas will however require this property.
 * This definition is a class to ease working with different constructions and their properties.
   Overall this means the being a CW complex is treated more like a property than data.
```
Comment (jcommelin) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:42]:
```suggestion
  Overall this means that being a CW complex is treated more like a property than data.
```

**Comment by jcommelin** [comment]
bors d+
